US08664379B2
To a suspension of 95% sodium hydride in anhydrous N,N-dimethylformamide (2 mL) at room temperature in a dry flask equipped with an inlet of dry nitrogen was added a solution of 6-(3-fluoro-4-(trifluoromethyl)phenyl)-7-methoxy-3,4-dihydroquinolin-2(1H)-one, prepared a shown above (53 mg, 0.10 mmol) in N,N-dimethylformamide (1 mL) with stirring. The reaction mixture was stirred for 30 minutes, followed by addition of 1-(bromomethyl)-2,4-difluorobenzene (207 mg, 1.0 mmol), and the reaction mixture stirred overnight. The reaction was followed by LCMS and stirring was continued as needed until the starting material was consumed. The reaction mixture was quenched by addition of saturated aqueous ammonium chloride (5 mL) with stirring, concentrated under reduced pressure, diluted with ethyl acetate (20 mL) and dilute aqueous ammonium chloride (10 mL). The aqueous phase was extracted with ethyl acetate (3×20 mL), and the combined organic phase was successively washed with 2N sodium carbonate (20 mL), 30% aqueous ammonium chloride (20 mL), brine (20 mL), and dried over magnesium sulfate. Evaporation of the solvent under reduced pressure gave a crude mixture that was purified by reverse phase HPLC with a gradient of acetonitrile/water (2% to 98%) to afford 1-(2,4-difluorobenzyl)-6-(3-fluoro-4-(trifluoromethyl)phenyl)-7-methoxy-3,4-dihydroquinolin-2(1H)-one (25 mg, 0.05 mmol, 52%). LCMS mz 466.0 (M+H), 487.9 (M+Na), anal HPLC>98% in purity. 1H NMR (400 MHz; CDCl3) δ7.58 (t, J=7.8 Hz, 1H); 7.34 (m, 2H); 7.21 (m, 1H); 7.10 (s, 1H); 6.80-6.89 (m, 2H); 6.57 (s, 1H); 5.24 (s, 2H); 3.70 (s, 3H); 2.94 (m, 2H); 2.81 (m, 2H).

reactant | sodium hydride | [H-].[Na+]
reactant | 6-(3-fluoro-4-(trifluoromethyl)phenyl)-7-methoxy-3,4-dihydroquinolin-2(1H)-one | FC=1C=C(C=CC1C(F)(F)F)C=1C=C2CCC(NC2=CC1OC)=O | C17H13F4NO2
reactant | 1-(bromomethyl)-2,4-difluorobenzene | 1.0 mmol, 207 mg | BrCC1=C(C=C(C=C1)F)F | C7H5BrF2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(2,4-difluorobenzyl)-6-(3-fluoro-4-(trifluoromethyl)phenyl)-7-methoxy-3,4-dihydroquinolin-2(1H)-one | 0.05 mmol, 25 mg, 52% | FC1=C(CN2C(CCC3=CC(=C(C=C23)OC)C2=CC(=C(C=C2)C(F)(F)F)F)=O)C=CC(=C1)F | C24H17F6NO2
